US06017634
Preparation of bisphenol A diglycerolate dimaleic acid monoester
34.8 g of bisphenol A diglycidyl ether was heated to 70° C. under continuous stirring and then 14.4 g of acrylic acid was added slowly under nitrogen atmosphere. After maintaining the reaction at 70° C. for 2 hours, 19.6 g of maleic anhydirde was added and then the temperature was raised to 80° C. under mechanical stirring for 2-3 hours to complete the reaction.

reactant | bisphenol A diglycidyl ether | 34.8 g | C(C1CO1)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC1CO1 | C21H24O4
reactant | acrylic acid | 14.4 g | C(C=C)(=O)O | C3H4O2
product | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
